Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cc: "I did not want to be here "

The patient is a ___ y/o single AA male with psychiatric hx of
OCD, PTSD, MDD, medical hx of asthma, no hx of previous 
psychiatric
hospitalizations, no substance use, recently prescribed Luvox 75
mg po daily, who presented to the ___ ED at the
encouraging of his outpatient psychiatrist Dr ___
uncontrollable irritability/angry outbursts in the setting of
self-discontinuing his Luvox. 
Pt gave a hx of "OCD" symptoms - talking about having his own
routine for the day, and when that routine is unexpectedly
changed/disrupted even in a minimal way (i.e. his mother asking
him to take trash on his way out) - it makes him very tense,
overwhelmed till the point he cannot cope. He needs to plan 
ahead
just for about anything and rigidly adheres to his plans.
He was "like that" since childhood, but :"I was good at keeping 
it inside". As per Dr ___: "He also became overwhelmed
at a seemingly trivial family interaction and began banging his
head against the wall and the bannister trying to knock himself
unconscious and saying he did not want to live anymore".
His brother has been diagnosed with Asperger's and it seems that
a lot of pt's symptoms are related to Apserger's as well. 
Pt stated that when he was treated with Luvox, initially he felt
some relief in his symptoms, but also c/o headache, fatigue, 
some
irritability, with further increase he started to experience
sexual side effects, feeling tired and sedated which prompted
discontinuation of Luvox. 
Initially he tapered down to 75 mg, next day to 50 and after 
that
he stopped taking medication. He experience severe
discontinuation symptoms including feeling hot, sweating, 
pacing,
feeling extremely irritable/angry, "he has been having thoughts
of killing himself without a particular plan but last night
became overwhelmed and was punching walls and banging his head 
in
an effort to hurt himself".  
Pt denied having manic symptoms or psychotic symptoms. 
During today's interview pleasant and cooperative.  Gave
permission to speak with his family and treaters.  Frustrated
with being admitted to the hospital, asked multiple questions
regarding CV, which after a long time he decided to sign. 

 
Major Surgical or Invasive Procedure:
no

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
 - ___ Dx: Mother: ___: brother: OCD, ASD; maternal
grandfather and maternal aunt with depression; numerous aunts 
and
cousins with alcohol and substance use disorders.  No known
history of bipolar affective disorder
 - ___ Treatment Hx/Med Trials: Mother on SSRI, brother on
fluvoxamine
 - ___ Hx Suicide: None known

 
Physical Exam:
ON Admission:

VS:  T 98.5   139 / 81  80  16   96 Room Air   

Cognition: 
   Wakefulness/alertness: alert and engaged in interview 
   *Attention: correctly lists MOYB with no errors 
   *Orientation: oriented x3 (self, location and date) 
   *Memory:   Intact to ___ immediate recall (dog, red, 
honesty),
___ delayed recall  
   *Fund of knowledge:  appropriate for level of education - 
able
to state current president of the ___ and who ___ was
   Calculations:  correctly states 7 quarters in $1.75
   Abstraction:  Appropriately interprets proverb, "don't judge 
a
book by its cover." 
   *Speech: rapid, but not pressured, normal tone, volume   
*Language: fluent ___ speaker without paraphasic errors.

Mental Status Exam:
Appearance: Well-groomed
Eye contact: Decreased
Facial expression: apathetic
Build: WNL
Behavior: engaging, cooperative, addressing questions
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I didn't want to be here", some anxiety and 
sadness,
recent violent angry outbursts (at home)
Thought process/content: reality oriented, goal directed, 
passive
SI at times, plan, denies HI, denies  AH/VH/paranoid delusions,
r/o  compulsions, but it seems patient is more "fixated" on his
routines
Intellectual Functioning: Fair concentration
Oriented: x4
Memory: grossly intact
Insight: poor
Judgment: poor

On Discharge: 
VS:  T  97.9   126 / 80 74 16 96 

Mental Status Exam:
Appearance: Well-groomed
Eye contact: Direct 
facial expression: Friendly 
build: WNL, muscular (body builder)
Behavior: engaging, cooperative
psychomotor: no abnormal involuntary movements, gait - normal,
Speech: normal rate, volume and tone
Mood/affect "I am happy to go home today ", stable, no angry
outbursts 
Thought process/content: reality oriented, goal directed, denies
SI/HI, denies  AH/VH/paranoid delusions, no racing thoughts 
Intellectual Functioning: Fair concentration
Oriented: x4
Memory: grossly intact
Insight: Fair 
judgment: Fair

 
Pertinent Results:
___ 09:45PM   GLUCOSE-88 UREA N-17 CREAT-0.9 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-26 ANION GAP-13
___ 09:45PM   estGFR-Using this
___ 09:45PM   ALT(SGPT)-39 AST(SGOT)-34 CK(CPK)-554* ALK 
PHOS-60 TOT BILI-1.0
___ 09:45PM   ALBUMIN-5.3*
___ 09:45PM   TSH-2.7
___ 09:45PM   T4-9.5 T3-136
___ 09:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:45PM URINE  HOURS-RANDOM
___ 09:45PM URINE  HOURS-RANDOM
___ 09:45PM URINE  HOURS-RANDOM
___ 09:45PM URINE  UHOLD-HOLD
___ 09:45PM URINE  GR HOLD-HOLD
___ 09:45PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:45PM   WBC-8.3 RBC-4.89 HGB-14.8 HCT-44.6 MCV-91 
MCH-30.3 MCHC-33.2 RDW-11.1 RDWSD-37.6
___ 09:45PM   NEUTS-51.6 ___ MONOS-7.1 EOS-1.6 
BASOS-0.5 IM ___ AbsNeut-4.29 AbsLymp-3.24 AbsMono-0.59 
AbsEos-0.13 AbsBaso-0.04
___ 09:45PM   PLT COUNT-199
 
Brief Hospital Course:
HOSPITAL COURSE:
Pt was admitted on section ___, although he was initially 
upset with being hospitalized in the psychiatric unit. VS stable 
throughout the hospital stay. Pleasant and engaging at all 
times. Able to talk about his symptoms. Admitted to feeling 
easily overwhelmed with a slightest change in his routine, good 
historian. 
Agreed to do psychiatric testing, results discussed, please ref 
for details to MR. 
___ in a hospital patient reported fair sleep, good appetite, 
energy. Participated in a very few groups, kept to himself most 
of the time. Team met with patient's mother, the circumstances 
leading to this hospitalization, behavioral problems home, 
medications, plans for aftercare were discussed. Patient was 
offered Lamictal for mood stabilization, he declined on numerous 
occasions as he was extremely worried about potential side 
effects. Team also contacted patient's psychiatrist Dr ___ 
was updated about clinical progress and findings.

SUBSTANCE USE DISORDERS:
Mr ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard. 

MEDICAL
Mt ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to Deac 4.  Additionally, Mr ___
has no chronic medical issues requiring attention.

INFORMED CONSENT: 
New Medication: 
Lamictal 
---Intended effects/Benefits: treatment for mood stabilization, 
depression, anxiety
---Adverse effects/Risks: Drowsiness, nausea, skin rash
Unfortunately patient refused trying this medication, and other 
medications team have suggested

RISK ASSESSMENT
On presentation, Mr ___ was evaluated and felt to be at an 
increased risk of harm to himself. Reported feeling overwhelmed 
and had passive SI.  Ms. ___ static risk factors noted at 
that time include chronic mental illness,  
family history of mental illness. 
The modifiable risk factors identified were as such: suicidal 
ideation, history of impulsivity, violent angry outbursts, 
acutely stressful events, limited 
coping skills.  These modifiable risk factors were addressed 
with acute stabilization in a safe environment on a locked 
inpatient unit, psychotherapeutic interventions (OT groups, SW 
groups, 
individual therapy meetings with psychiatrists), and presence on 

a social milieu environment.  Mr ___ is being discharged with 
many protective factors, including plan to follow up with his 
psychiatrist, family support, motivation to get back to work and 
exercising. 
 Overall, based on the totality of our assessment at this time, 
Mr ___ is not at an acutely elevated risk of harm to self nor 
danger to others. 

Our prognosis for this patient is fair.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine [Lamictal] 25 mg 1 tablet(s) by mouth nightly 
Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
OCD, PTSD, MDD, r/o Asperger's

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___